US04526894
To 10 ml of nitrobenzene is added 3.3 grams of anhydrous aluminum chloride, benzoyl chloride is dropped thereinto with stirring, to the resulting uniform solution is added 2.5 grams of 4-hydroxy-6-isopropyl-2-quinolone, the mixture is heated with stirring at 100° C. for eight hours, then concentrated hydrochloric acid is added to make the reaction solution decomposed, water is added thereto, crystals separated out therefrom are collected by filtration, washed with ether and methanol, and recrystallized from chloroform and methanol to give 1.6 grams of 3-benzoyl-4-hydroxy-6-isopropyl-2-quinolone, pale yellow needles, melting point 270° C.

reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminum chloride | 3.3 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-hydroxy-6-isopropyl-2-quinolone | 2.5 grams | OC1=CC(NC2=CC=C(C=C12)C(C)C)=O | C12H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-benzoyl-4-hydroxy-6-isopropyl-2-quinolone | 1.6 grams | C(C1=CC=CC=C1)(=O)C=1C(NC2=CC=C(C=C2C1O)C(C)C)=O | C19H17NO3
